US09193693B2
Step 2. 3-(isopropyl(methyl)amino)-2-(pyridin-4-yl)quinoxaline-6-carboxylic acid
Into a 10-mL sealed tube, was placed a solution of methyl 3-(isopropyl(methyl)amino)-2-(pyridin-4-yl)quinoxaline-6-carboxylate (50 mg, 0.15 mmol, 1.00 equiv) in methanol (15 mL), sodium hydroxide (30 mg, 0.75 mmol, 5.04 equiv), water (2 mL). The resulting solution was stirred for 2 hr at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum and diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with hydrogen chloride (2 mol/L). The resulting solids were collected by filtration. This resulted in 22 mg (44%) of 3-(isopropyl(methyl)amino)-2-(pyridin-4-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(isopropyl(methyl)amino)-2-(pyridin-4-yl)quinoxaline-6-carboxylate | 0.15 mmol, 50 mg, 1.00 equiv | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=NC=C1)C | C19H20N4O2
reactant | sodium hydroxide | 0.75 mmol, 30 mg, 5.04 equiv | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 3-(isopropyl(methyl)amino)-2-(pyridin-4-yl)quinoxaline-6-carboxylic acid | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=NC=C1)C | C18H18N4O2
